US04110072
1 -Amino-2-Methoxy-4-p-Toluenesulfonamidoanthraquinone/ 1-Amino-2-Methoxy-4-Benzenesulfonamidoanthraquinone
To a homogenous mixture of 225 g. potassium hydroxide in 450 g. methanol cooled to 60°-70° C is added 87 g. of the mixed potassium salts of 1-amino-4-benzenesulfonamido-2-anthraquinonesulfonic acid and 1-amino-4-p-toluenesulfonamido- 2-anthraquinone sulfonic acid. After holding this mixture for about 2 hours at 75°-80° C, the reaction mass is diluted with 750 g. water, filtered at less than 40° C, washed free of alkali with warm and then hot water and the product recovered as a red presscake. There is obtained 65 g. of product calculated on a dry basis, consisting of a mixture which is approximately 48% 1-amino-2-methoxy-4-toluenesulfonamidoanthraquinone and approximately 52% 1-amino-2-methoxy-4-benzenesulfonamidoanthraquinone. The mixture when dispersed in the usual manner dyes polyester textile materials, such as Dacron, red shades which are considerably stronger and brighter than comparable dyeing using dispersions of either of the individual components.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 1-amino-4-benzenesulfonamido-2-anthraquinonesulfonic acid | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NS(=O)(=O)C1=CC=CC=C1)S(=O)(=O)O | C20H14N2O7S2
reactant | 1-amino-4-p-toluenesulfonamido- 2-anthraquinone sulfonic acid | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)O | C21H16N2O7S2
reactant | 1-amino-2-methoxy-4-toluenesulfonamidoanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NS(=O)(=O)C=1C(=CC=CC1)C)OC | C22H18N2O5S
reactant | 1-amino-2-methoxy-4-benzenesulfonamidoanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NS(=O)(=O)C1=CC=CC=C1)OC | C21H16N2O5S
solvent | methanol | CO | CH4O
product | 1 -Amino-2-Methoxy-4-p-Toluenesulfonamidoanthraquinone 1-Amino-2-Methoxy-4-Benzenesulfonamidoanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NS(=O)(=O)C1=CC=C(C=C1)C)OC.NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NS(=O)(=O)C1=CC=CC=C1)OC | InChI=1S/C22H18N2O5S.C21H16N2O5S/c1-12-7-9-13(10-8-12)30(27,28)24-16-11-17(29-2)20(23)19-18(16)21(25)14-5-3-4-6-15(14)22(19)26;1-28-16-11-15(23-29(26,27)12-7-3-2-4-8-12)17-18(19(16)22)21(25)14-10-6-5-9-13(14)20(17)24/h3-11,24H,23H2,1-2H3;2-11,23H,22H2,1H3
